US08026390B2
<2> The reaction described in <3> of Synthesis Example 1 was performed under the same conditions, except that the 1-naphthoyloxymethyl difluoromethanesulfonic acid sodium salt (2.61 g) produced in <1> of Synthesis Example 7 above was used instead of the benzoyloxymethyldifluorosulfonic acid sodium salt in the reaction with diphenylmethylphenylsulfonium trifluoromethanesulfonate salt, and thus 3.92 g (yield 94.45%) of 1-naphthoic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt as shown in the following reaction scheme 15 was obtained. The structure of the product was confirmed by 1H-NMR (see FIG. 14).

reactant | 1-naphthoyloxymethyl difluoromethanesulfonic acid sodium salt | 2.61 g | [Na+].C1(=CC=CC2=CC=CC=C12)C(=O)OCC(S(=O)(=O)[O-])(F)F
reactant | diphenylmethylphenylsulfonium trifluoromethanesulfonate salt | FC(S(=O)(=O)[O-])(F)F.C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1
product | 1-naphthoic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt | 3.92 g, yield 94.45% | C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1.FC(COC(=O)C1=CC=CC2=CC=CC=C12)(S(=O)(=O)O)F | InChI=1S/C19H16S.C13H10F2O5S/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)20-18-14-8-3-9-15-18;14-13(15,21(17,18)19)8-20-12(16)11-7-3-5-9-4-1-2-6-10(9)11/h1-15,19H;1-7H,8H2,(H,17,18,19)/p+1
